US07576063B2
1-Isopropyl-4-(4-methoxyphenylmethyl)-5-[4-(N,N-dimethyl-amino)phenyl]-3-(β-D-glucopyranosyloxy)-1H-pyrazole
To a suspension of 5-[4-(N,N-dimethylamino)phenyl]-1-isopropyl-4-(4-methoxyphenyl)methyl-3H-pyrazole-3-on hydrochloride (0.051 g), acetobromo-α-D-glucose (0.16 g) and benzyl(n-tributyl)ammonium chloride (0.12 g) in dichloromethane (3 mL) was added sodium hydroxide (2 mol/L, 0.19 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on aminopropylated silica gel (eluent:ethyl acetate). The obtained semi purified 1-isopropyl-4-(4-methoxyphenylmethyl)-5-[4-(N,N-dimethyl-amino)phenyl]-3-(2,3,4,6-tetraacetyl-β-D-glucopyranosyloxy)-1H-pyrazoel was dissolved in methanol, and sodium methoxide (28% methanol solution, 0.02 mL) was added to the solution. The mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by preparative reverse phase column chromatography (Shiseido CAPSELLPAC C18UG80, 5μM, 20×50 mm, flowrate 30 mL/min linear gradient, water/methanol=90/10-10/90) to give the title compound (0.040 g).

reactant | 5-[4-(N,N-dimethylamino)phenyl]-1-isopropyl-4-(4-methoxyphenyl)methyl-3H-pyrazole-3-on hydrochloride | 0.051 g | Cl.CN(C)C1=CC=C(C=C1)C1=C(C(NN1C(C)C)=O)CC1=CC=C(C=C1)OC
reactant | acetobromo-α-D-glucose | 0.16 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | sodium hydroxide | 2 mol/L, 0.19 mL | [OH-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-Isopropyl-4-(4-methoxyphenylmethyl)-5-[4-(N,N-dimethyl-amino)phenyl]-3-(β-D-glucopyranosyloxy)-1H-pyrazole | 0.040 g | C(C)(C)N1N=C(C(=C1C1=CC=C(C=C1)N(C)C)CC1=CC=C(C=C1)OC)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C28H37N3O7
